US04729781
To a solution of 360 g. of potassium carbonate in 350 ml. of water was added 2.5 diethyl ether and 181 g. hydroxylamine hydrochloride. The mixture was cooled to 5°-1O° C. and 477 g. of 3,6-dichloro-2-methoxybenzoyl chloride was added dropwise at a rate that maintained the reaction temperature below 10° C. After addition was complete, the reaction mixture was stirred for 1 hour and allowed to stand overnight at ambient temperature. The crude white solid product was obtained by filtration. The crude solid was washed with water, then treated with 1.5 of 4.5 M. HCl, filtered, washed again with H2O and dried to give 3,6-dichloro-2-methoxybenzohydroxamic acid as a white solid, m.p. 150° C.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | 3,6-dichloro-2-methoxybenzoyl chloride | ClC=1C(=C(C(=O)Cl)C(=CC1)Cl)OC | C8H5Cl3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,6-dichloro-2-methoxybenzohydroxamic acid | ClC=1C(=C(C(=O)NO)C(=CC1)Cl)OC | C8H7Cl2NO3
